US05646173
A mixture of 0.97 g of (R)-N-[2-(8-methoxy-1H-benz[g]indol-1-yl)-1-methyl-ethyl]-trifluoroacetamide, 1 g of potassium hydroxide, 2 ml of water and 40 ml of methanol was boiled under reflux for 15 hours. The reaction mixture was subsequently poured into 80 ml of 1N sodium hydroxide solution, extracted twice with 80 ml of diethyl ether each time and once with 80 ml of ethyl acetate and the combined organic phases were washed once with 120 ml and dried over magnesium sulfate. After concentration in a vacuum, the residue was dissolved in 100 ml of anhydrous diethyl ether, filtered and treated while stirring with a solution of 322 mg of fumaric acid in 30 ml of methanol. The mixture was stirred at room temperature for 3 hours and the white crystals were subsequently filtered off. 600 mg (69%) of (R)-2-(8-methoxy-1H-benz[g]indol-1-yl)-1-methyl-ethylamine fumarate (1:0.5) with m.p. 209° were obtained.

reactant | (R)-N-[2-(8-methoxy-1H-benz[g]indol-1-yl)-1-methyl-ethyl]-trifluoroacetamide | 0.97 g | COC1=CC=2C(=CC=C3C=CN(C23)C[C@@H](C)NC(C(F)(F)F)=O)C=C1 | C18H17F3N2O2
reactant | potassium hydroxide | 1 g | [OH-].[K+]
reactant | water | 2 ml | O | H2O
reactant | sodium hydroxide | 1N, 80 ml | [OH-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | (R)-2-(8-methoxy-1H-benz[g]indol-1-yl)-1-methyl-ethylamine fumarate | 600 mg, 69% | C(\C=C\C(=O)O)(=O)O.COC1=CC=2C(=CC=C3C=CN(C23)C[C@@H](C)N)C=C1 | InChI=1S/C16H18N2O.C4H4O4/c1-11(17)10-18-8-7-13-4-3-12-5-6-14(19-2)9-15(12)16(13)18;5-3(6)1-2-4(7)8/h3-9,11H,10,17H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1+/t11-;/m1./s1
